US04260774
To a suspension of 5.084 g of 4-carbamoyl-imidazolium-5-olate in 104 ml of dry pyridine was added 11.41 g of p-bromobenzoyl chloride at room temperature. After addition was over, the mixture was stirred at 40°-45° C. for 2.5 hours. The separated crystals were filtered off, washed with chloroform and diisopropyl ether, dried under vacuum to give 10.535 g of 5-carbamoyl-1H-imidazol-4-yl p-bromobenzoate, m.p. 232°-233° C. (dec.)

reactant | 4-carbamoyl-imidazolium-5-olate | 5.084 g | C(N)(=O)C=1NC=[NH+]C1[O-] | C4H5N3O2
reactant | p-bromobenzoyl chloride | 11.41 g | BrC1=CC=C(C(=O)Cl)C=C1 | C7H4BrClO
solvent | pyridine | 104 ml | N1=CC=CC=C1 | C5H5N
product | 5-carbamoyl-1H-imidazol-4-yl p-bromobenzoate | 10.535 g | BrC1=CC=C(C(=O)OC=2N=CNC2C(N)=O)C=C1 | C11H8BrN3O3
